US05236952
1.0 g of 2-benzimidazolyl (3,4-dimethoxy-5-nitrophenyl) ketone and 8.0 g of pyridine hydrochloride are held at 200° for 60 minutes. The dark solution is poured while still warm into ice-water and extracted three times with 100 ml of ethyl acetate each time. The organic phase is washed with water, dried over sodium sulfate and evaporated. After recrystallization from ethyl acetate/hexane, there is obtained 2-benzimidazolyl (3,4-dihydroxy-5-nitrophenyl) ketone in the form of yellow crystals of m.p. 240°-250°.

reactant | 2-benzimidazolyl (3,4-dimethoxy-5-nitrophenyl) ketone | 1.0 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(=O)C=1NC2=C(N1)C=CC=C2 | C16H13N3O5
reactant | pyridine hydrochloride | 8.0 g | Cl.N1=CC=CC=C1
product | 2-benzimidazolyl (3,4-dihydroxy-5-nitrophenyl) ketone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(=O)C=1NC2=C(N1)C=CC=C2 | C14H9N3O5
